Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
cefaclor / citalopram / Penicillins / Levaquin / fluvastatin / 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / Statins-Hmg-Coa 
Reductase Inhibitors / aspirin
 
Attending: ___
 
Chief Complaint:
word finding difficulty
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
The patient is a ___ woman with history of hypertension,
hyperlipidemia, COPD, former smoker(quit ___, prior
TIA in ___ who presents with transient episode of word finding
difficulty.  Briefly, patient reports she was in her usual state
up until 9 ___ when she was saying her prayer, which she usually
says is loud and noticed that she had trouble getting the words
out.  She says she knew what she wanted to say but had 
difficulty
getting the words out.  She also said she felt kind of confused. 

Stating she was trying to call with daughter but was not able to
dial the phone.  She was eventually able to reach her son who
called EMS.  By the time EMS came her symptoms had completely
resolved.   She states the whole episode lasted maybe 5 minutes. 

She denies any associated symptoms such as headache, visual
symptoms, focal weakness or paresthesias, nausea or vomiting.  
No
tongue biting or urinary incontinence.  She denies any recent
fevers or sick contacts.  She is compliant with her medication.
She went to an outside hospital her CT head was negative for
acute intracranial process.  She was transferred to ___ for further workup of TIA including MRI
which was not available at ___. 

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
COPD
Hypertension
Hyperlipidemia
TIA
Anxiety
Coronary artery disease
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
=====================
ADMISSION EXAMINATION
=====================
Physical Exam:
Vitals: T:98  P: 62 r: 16  BP: 171/102 SaO2: 96% room air
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple
Pulmonary: no increased work of breathing
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 2.5 to 1.5mm. BTT.
III, IV, VI: EOMI without nystagmus. No
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hard of hearing ( chronic)
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

- Motor - Normal bulk and tone. No drift. 
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   5-    5     5     5     5    5     5     5     5    
 R   5     5     5     5     5-    5     5     5     5    

-Sensory: No deficits to light touch throughout. 

-Coordination: No intention tremor.  No dysmetria on FNF b/l. 

-Gait: Deferred

=====================
DISCHARGE EXAMINATION
=====================
Unchanged from the above with the exception of the following:
Improvement in BP to ___
 
Pertinent Results:
==========
LABORATORY
==========
___ 02:24AM BLOOD WBC-7.7 RBC-3.83* Hgb-11.2 Hct-34.2 
MCV-89 MCH-29.2 MCHC-32.7 RDW-13.5 RDWSD-43.9 Plt ___
___ 02:24AM BLOOD Neuts-71.4* Lymphs-18.4* Monos-6.4 
Eos-2.5 Baso-1.0 Im ___ AbsNeut-5.48 AbsLymp-1.41 
AbsMono-0.49 AbsEos-0.19 AbsBaso-0.08
___ 02:24AM BLOOD ___ PTT-34.3 ___
___ 02:24AM BLOOD Glucose-108* UreaN-12 Creat-0.7 Na-141 
K-3.7 Cl-103 HCO3-23 AnGap-19
___ 02:24AM BLOOD ALT-8 AST-14 AlkPhos-103 TotBili-0.2
___ 02:24AM BLOOD cTropnT-<0.01
___ 02:24AM BLOOD Albumin-4.3 Calcium-9.5 Phos-3.4 Mg-1.8 
Cholest-181
___ 04:56AM BLOOD %HbA1c-5.2 eAG-103
___ 02:24AM BLOOD Triglyc-41 HDL-77 CHOL/HD-2.4 LDLcalc-96
___ 02:24AM BLOOD TSH-1.9
___ 02:24AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

=======
IMAGING
=======
CTA H&N - ___
1. No evidence for an acute intracranial abnormality. 
2. Minimal atherosclerosis of bilateral common carotid artery 
bifurcations 
without stenosis by NASCET criteria.  Medialized internal 
carotid arteries 
with retropharyngeal courses. 
3. At least 60% narrowing of the proximal left subclavian artery 
by 
predominantly noncalcified plaque. 
4. Multiple foci of tortuosity in bilateral vertebral arteries, 
with a focal kink in the right V3 segment. 
5. No evidence for flow-limiting stenosis in the major 
intracranial arteries. 
6. Centrilobular and paraseptal emphysema in the included upper 
lungs. 

MRI HEAD - ___
1. No acute intracranial abnormality including hemorrhage, 
infarct, or 
suggestion of mass. 
2. Mild global atrophy and areas of scattered white matter 
signal abnormality in a configuration most suggestive of chronic 
small vessel ischemic disease. 
 
Brief Hospital Course:
Ms. ___ is ___ woman with a history of 
hypertension, hyperlipidemia, and recent smoking history, who 
presents with a transient episode of speech and language 
difficulties while speaking aloud. This was a singular event, 
and she feels that she is back to her baseline. Her neurological 
examination was normal throughout admission.
Presentation is suggestive of a left hemispheric TIA probably 
involving the Broca's area. Her vascular imaging with CTA of the 
head and neck does not show any significant stenosis - though 
there are heavy calcifications of the aortic arch. MRI was 
negative for any acute stroke. During admission, she remained in 
sinus rhythm and was monitored by cardiac telemetry. 
She will require further evaluation with ECHO and ___ of Hearts 
Event monitor to assess for pAfib. The patient and her daughter 
will schedule these to be done in outpatient setting.
She was discharged on home medications without modifications. 
She remains on Plavix and gemfibrozil due to allergies to ASA 
and statins.

=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
================================================================

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL = 96) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (x) No [if 
LDL >100, reason not given: ]
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? () Yes - (x) No [if LDL >100, 
reason not given: ]
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lansoprazole Oral Disintegrating Tab 15 mg Other TID 
2. Clopidogrel 75 mg PO DAILY 
3. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheeze, SOB 
4. LORazepam 0.25 mg PO TAKE ___ TABLET EVERY MORNING AND 1 
TABLET IN THE AFTERNOON, AND 1 TABLET EVERY EVENING 
5. Gemfibrozil 600 mg PO DAILY 
6. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN asthma 
7. Vitamin D 1000 UNIT PO DAILY 
8. Lisinopril 20 mg PO DAILY 

 
Discharge Medications:
1.  Albuterol Inhaler ___ PUFF IH Q6H:PRN wheeze, SOB  
2.  Clopidogrel 75 mg PO DAILY  
3.  Gemfibrozil 600 mg PO DAILY  
4.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN asthma  
5.  Lansoprazole Oral Disintegrating Tab 15 mg Other TID  
6.  Lisinopril 20 mg PO DAILY  
7.  LORazepam 0.25 mg PO TAKE ___ TABLET EVERY MORNING AND 1 
TABLET IN THE AFTERNOON, AND 1 TABLET EVERY EVENING  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
TIA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were hospitalized due to symptoms of speech difficulty 
resulting from an TRANSIENT ISCHEMIC ATTACK, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
briefly blocked by a clot. The brain is the part of your body 
that controls and directs all the other parts of your body, so 
damage to the brain from being deprived of its blood supply can 
result in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 

You will get two studies done as an outpatient:
- transthoracic echocardiogram
- ___ of Hearts monitor 

For the time being, we are not making any changes to your 
medications.

Please followup with Neurology and your primary care physician.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___